US06664256B1
(2) Preparation of N-(n-propyl)-2,4-difluoroaniline
2′,4′-Difluoropropionanilide (7.17 g, 38.7 mmol) was dissolved in tetrahydrofuran (30 ml), followed by the addition of lithium aluminum hydride (7 g, 184 mmol). The resulting mixture was stirred at 70° C. for 7 hours. Under ice-water cooling, methanol (10 ml) was added to decompose excess lithium aluminum hydride. A saturated aqueous solution of ammonium chloride (100 ml) was then added to the reaction mixture, and a precipitate was filtered off. The filtrate was extracted with chloroform, and the organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was separated and purified by chromatography on a silica gel column (silica gel 5 g, chloroform), whereby the title compound was obtained as a pale liver-brown oil (5.7 g, 86.0%).

reactant | 2′,4′-Difluoropropionanilide | 38.7 mmol, 7.17 g | FC1=C(NC(CC)=O)C=CC(=C1)F | C9H9F2NO
reactant | lithium aluminum hydride | 184 mmol, 7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methanol | 10 ml | CO | CH4O
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-(n-propyl)-2,4-difluoroaniline | 5.7 g, 86.0% | C(CC)NC1=C(C=C(C=C1)F)F | C9H11F2N
